US04027027
A solution of 22 g of crude 1-[N-benzyl-N-[2-(5-carbamoyl-2-pyridyloxy)-1,1-dimethyl-ethyl]-amino]-3-(2-methyl-phenoxy)-2-propanol in 220 ml of methanol is hydrogenated analogously to Example 1, a total of 6 g of palladium-on-charcoal catalyst (5% strength) being added in 2 portions in order that the calculated amount of hydrogen should be taken up. Working up gives an oil from which 1-[2-(5-carbamoyl-2-pyridyloxy)-1,1-dimethyl-ethylamino]-3-(2-methyl-phenoxy)-2-propanol of melting point 122°-128° C. is obtained by crystallisation from ethyl acetate.

reactant | 1-[N-benzyl-N-[2-(5-carbamoyl-2-pyridyloxy)-1,1-dimethyl-ethyl]-amino]-3-(2-methyl-phenoxy)-2-propanol | 22 g | C(C1=CC=CC=C1)N(C(COC1=NC=C(C=C1)C(N)=O)(C)C)CC(COC1=C(C=CC=C1)C)O | C27H33N3O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 220 ml | CO | CH4O
catalyst | palladium-on-charcoal | 6 g | [Pd] | Pd
product | 1-[2-(5-carbamoyl-2-pyridyloxy)-1,1-dimethyl-ethylamino]-3-(2-methyl-phenoxy)-2-propanol | C(N)(=O)C=1C=CC(=NC1)OCC(C)(C)NCC(COC1=C(C=CC=C1)C)O | C20H27N3O4
